US04895868
4,4-dimethyl-6-carboxythiochroman
To a stirred solution of 5.14 g (0.02 mmol) of 4,4-dimethyl-6-bromothiochroman in 40 ml of dry ether at -78° C. was added dropwise 28.2 ml of 1.7 M 0.048 mmol) tert-butyllithium in pentane. The mixture was stirred at -78° C. for 2.5 hours and then treated with an excess of solid carbon dioxide. The mixture was warmed to room temperature and treated with sufficient water to dissolve the solids. The aqueous layer was then separated, acidified with dilute sulfuric acid and extracted with three portions of ether. The ether extracts were combined and washed successively with water and saturated NaCl solution and then dried (MgSO4). The solution was filtered and the solvent removed in-vacuo and the residue recrystallized from ethyl acetate and hexane to give the title compound as a white solid. PMR (CDCl3): δ1.37 (6H, s), 1.97 (2H, m), 3.08 (2H, m), 7.17 (1H, d, J~ 8.0 Hz), 7.74 (1H dd, J~8.0, 1.9 Hz), 8.11 (1H, d, J~1.9 Hz).

reactant | 4,4-dimethyl-6-bromothiochroman | 0.02 mmol, 5.14 g | CC1(CCSC2=CC=C(C=C12)Br)C | C11H13BrS
reactant | tert-butyllithium | C(C)(C)(C)[Li]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | water | O | H2O
solvent | ether | 40 ml | CCOCC | C4H10O
solvent | pentane | CCCCC | C5H12
product | 4,4-dimethyl-6-carboxythiochroman | CC1(CCSC2=CC=C(C=C12)C(=O)O)C | C12H14O2S
